US06716872B2
5-(2,3-Dichlorobenzylidene)-pyrrolidine-2,3,4-trione 3-oxime
An aqueous solution of 1.1 mmol (0.075 g) sodium nitrite was added dropwise to an ice-cooled solution of 2 mmol 5-(2,3-dichlorobenzylidene)-4-hydroxy-1,5-dihydropyrrol-2-one (prepared in accordance with H. Poschenrieder et al (Arch. Pharm. Pharm. Med. Chem. 1998, 331, 389-394) and H.-D. Stachel et al (J. Heterocycl. Chem. 1980, vol. 17, pp. 1195-1199) and Liebigs Ann. Chem. 1985, pp. 1692-1696)) in 5 ml glacial acetic acid, while stirring. The resulting solution was then stirred at room temperature for 30 minutes and concentrated in vacuo. The residue is purified by recrystallization from ethanol. The yield of 5-(2,4-dichlorobenzylidene)-pyrrolidine-2,3,4-trione 3-oxime was 55%, with a melting point of 180° C.

reactant | sodium nitrite | 1.1 mmol, 0.075 g | N(=O)[O-].[Na+]
reactant | 5-(2,3-dichlorobenzylidene)-4-hydroxy-1,5-dihydropyrrol-2-one | 2 mmol | ClC1=C(C=C2C(=CC(N2)=O)O)C=CC=C1Cl | C11H7Cl2NO2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 5-(2,3-Dichlorobenzylidene)-pyrrolidine-2,3,4-trione 3-oxime | ClC1=C(C=C2C(C(C(N2)=O)=NO)=O)C=CC=C1Cl | C11H6Cl2N2O3
